US06593333B1
6,7-dimethoxy-4-[3-(2-morpholinopyridine-4-carboxamido)anilino]quinazoline
Using an analogous procedure to that described in Example 26, 4-chloro-6,7-dimethoxyquinazoline was reacted with N-(3-aminophenyl)-2-morpholinopyridine-4-carboxamide. The material so obtained was purified by column chromatography eluting with 96:3:1 methylene chloride/methanol/saturated aqueous ammonium hydroxide. The material so obtained was triturated under methylene chloride to give the title compound in 33% yield; NMR: 3.51 (m, 4H), 3.71 (m, 4H), 3.93 (s, 3H), 3.96 (s, 3H), 7.11 (d, 1H), 7.18 (s, 1H), 7.24 (s, 1H), 7.35 (m. 1H), 7.44 (d, 1H), 7.57 (d, 1H), 7.86 (s, 1H), 8.23 (s, 1H), 8.29 (d, 1H), 8.46 (s, 1H), 9.49 (s, 1H), 10.34 (s, 1H); Mass: M+H+ 487.

reactant | 4-chloro-6,7-dimethoxyquinazoline | ClC1=NC=NC2=CC(=C(C=C12)OC)OC | C10H9ClN2O2
reactant | N-(3-aminophenyl)-2-morpholinopyridine-4-carboxamide | NC=1C=C(C=CC1)NC(=O)C1=CC(=NC=C1)N1CCOCC1 | C16H18N4O2
product | 6,7-dimethoxy-4-[3-(2-morpholinopyridine-4-carboxamido)anilino]quinazoline | 33% yield | COC=1C=C2C(=NC=NC2=CC1OC)NC1=CC(=CC=C1)NC(=O)C1=CC(=NC=C1)N1CCOCC1 | C26H26N6O4
